US06653347B2
To a solution of N-(4-cyano-2-methoxyphenyl)amino sulfonyl aniline (1 mmol) in methylene chloride (1 mL) at −78° C. is added boron tribromide (3 mmol) and the reaction is warmed to rt. Upon completion of the reaction, the reaction is quenched with water (1 mL) and concentrated. The crude material is purified by either recrystalization or chromatography to give N-(4-cyano-2-hydroxyphenyl)amino sulfonyl aniline.

reactant | N-(4-cyano-2-methoxyphenyl)amino sulfonyl aniline | 1 mmol | C(#N)C1=CC(=C(C=C1)NS(=O)(=O)NC1=CC=CC=C1)OC | C14H13N3O3S
reactant | boron tribromide | 3 mmol | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(4-cyano-2-hydroxyphenyl)amino sulfonyl aniline | C(#N)C1=CC(=C(C=C1)NS(=O)(=O)NC1=CC=CC=C1)O | C13H11N3O3S
